US08022075B2
5-[4-(6-Bromoimidazo[1,2-a]pyridin-2-yl)phenyl]-1,3-oxazole (28)
The procedure of Example 1 was repeated, except that 4-(6-bromoimidazo[1,2-a]pyridin-2-yl)benzaldehyde (255 mg) and p-toluenesulfonylmethylisocyanide (198 mg) were used, to thereby yield the title compound (227 mg).

reactant | 4-(6-bromoimidazo[1,2-a]pyridin-2-yl)benzaldehyde | 255 mg | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=O)C=C2 | C14H9BrN2O
reactant | p-toluenesulfonylmethylisocyanide | 198 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
product | 5-[4-(6-Bromoimidazo[1,2-a]pyridin-2-yl)phenyl]-1,3-oxazole | 227 mg | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C2=CN=CO2 | C16H10BrN3O
